Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Traumatic brain injury s/p fall
 
Major Surgical or Invasive Procedure:
___ PEG tube placement

 
History of Present Illness:
Patient ___ in by medflight after being intubated in the 
field. >20ft fall from scaffolding. Reports of LOC and confusion 
after regaining consciousness. GCS ___ prior to being intubated 
on the field. Abrasions to R chest wall and upper abdomen.

 
Past Medical History:
HTN, benign tumor between rectum and spinal cord, multiple 
falls, several concussions  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On admission:

Gen: WD/WN, intubated, NAD.
HEENT: normocephalic Pupils: PERRL        EOMs unable to assess
Neck: Hard Cervical collar in place, Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: no commands, no EO
Orientation: none
Language: intubated

On discharge:

VS:  T98.4, 75, 140/81, 14, 100% on room air
 
Pertinent Results:
___ 10:30AM BLOOD WBC-13.1* RBC-5.28 Hgb-15.2 Hct-45.6 
MCV-86 MCH-28.8 MCHC-33.3 RDW-13.2 Plt ___
___ 02:05PM BLOOD WBC-17.6* RBC-5.26 Hgb-15.2 Hct-46.0 
MCV-88 MCH-29.0 MCHC-33.1 RDW-13.3 Plt ___
___ 01:46AM BLOOD WBC-13.6* RBC-4.63 Hgb-13.7* Hct-39.8* 
MCV-86 MCH-29.6 MCHC-34.4 RDW-13.5 Plt ___
___ 03:25PM BLOOD WBC-12.8* RBC-4.25* Hgb-12.5* Hct-36.6* 
MCV-86 MCH-29.5 MCHC-34.3 RDW-13.7 Plt ___
___ 01:49AM BLOOD WBC-11.4* RBC-4.10* Hgb-11.9* Hct-35.2* 
MCV-86 MCH-29.1 MCHC-33.9 RDW-13.3 Plt ___
___ 01:01AM BLOOD WBC-11.6* RBC-3.77* Hgb-11.1* Hct-32.9* 
MCV-87 MCH-29.4 MCHC-33.6 RDW-13.7 Plt ___
___ 01:21AM BLOOD WBC-8.5 RBC-3.76* Hgb-11.2* Hct-33.2* 
MCV-88 MCH-29.8 MCHC-33.7 RDW-13.7 Plt Ct-82*
___ 02:30AM BLOOD WBC-12.0* RBC-4.09* Hgb-12.0* Hct-35.7* 
MCV-87 MCH-29.4 MCHC-33.7 RDW-13.8 Plt ___
___ 02:37AM BLOOD WBC-10.7 RBC-4.31* Hgb-12.6* Hct-37.4* 
MCV-87 MCH-29.2 MCHC-33.6 RDW-13.5 Plt ___
___ 02:23AM BLOOD WBC-13.0* RBC-4.58* Hgb-13.6* Hct-40.1 
MCV-88 MCH-29.8 MCHC-34.0 RDW-13.8 Plt ___
___ 02:04AM BLOOD WBC-15.7* RBC-4.96 Hgb-14.7 Hct-43.7 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.4 Plt ___
___ 03:40AM BLOOD WBC-15.8* RBC-4.57* Hgb-13.9* Hct-40.3 
MCV-88 MCH-30.3 MCHC-34.4 RDW-13.6 Plt ___
___ 03:28AM BLOOD WBC-13.5* RBC-4.66 Hgb-13.9* Hct-41.1 
MCV-88 MCH-29.9 MCHC-33.9 RDW-13.4 Plt ___
___ 10:30AM BLOOD ___ PTT-25.0 ___
___ 01:49AM BLOOD ___ PTT-28.2 ___
___ 01:46AM BLOOD ___ 02:05PM BLOOD Glucose-158* UreaN-20 Creat-1.2 Na-138 
K-3.8 Cl-103 HCO3-25 AnGap-14
___ 01:46AM BLOOD Glucose-167* UreaN-23* Creat-1.6* Na-138 
K-4.5 Cl-106 HCO3-18* AnGap-19
___ 03:25PM BLOOD Glucose-145* UreaN-23* Creat-1.3* Na-141 
K-3.8 Cl-110* HCO3-23 AnGap-12
___ 01:49AM BLOOD Glucose-130* UreaN-23* Creat-1.1 Na-140 
K-3.7 Cl-110* HCO3-22 AnGap-12
___ 01:01AM BLOOD Glucose-109* UreaN-25* Creat-1.0 Na-144 
K-3.7 Cl-110* HCO3-22 AnGap-16
___ 01:21AM BLOOD Glucose-129* UreaN-33* Creat-1.2 Na-141 
K-4.2 Cl-109* HCO3-19* AnGap-17
___ 02:30AM BLOOD Glucose-151* UreaN-25* Creat-0.9 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-15
___ 02:04AM BLOOD Glucose-117* UreaN-22* Creat-0.9 Na-139 
K-3.5 Cl-99 HCO3-30 AnGap-14
___ 02:37AM BLOOD Glucose-103* UreaN-23* Creat-0.7 Na-138 
K-4.0 Cl-101 HCO3-24 AnGap-17
___ 02:23AM BLOOD Glucose-106* UreaN-30* Creat-0.9 Na-139 
K-4.0 Cl-100 HCO3-25 AnGap-18
___ 04:46PM BLOOD Glucose-102* UreaN-26* Creat-0.8 Na-137 
K-4.0 Cl-98 HCO3-27 AnGap-16
___ 02:04AM BLOOD Glucose-109* UreaN-27* Creat-0.7 Na-134 
K-4.0 Cl-97 HCO3-25 AnGap-16
___ 03:40AM BLOOD Glucose-132* UreaN-29* Creat-0.8 Na-135 
K-3.8 Cl-97 HCO3-25 AnGap-17
___ 03:28AM BLOOD Glucose-128* UreaN-24* Creat-0.7 Na-137 
K-3.8 Cl-101 HCO3-25 AnGap-15
___ 07:40PM BLOOD CK(CPK)-1174*
___ 01:21AM BLOOD CK(CPK)-626*
___ 10:30AM BLOOD Lipase-72*
___ 07:40PM BLOOD CK-MB-11* MB Indx-0.9 cTropnT-<0.01
___ 02:05PM BLOOD cTropnT-<0.01
___ 01:46AM BLOOD cTropnT-<0.01
___ 02:05PM BLOOD Calcium-8.2* Phos-2.6* Mg-2.0
___ 02:30AM BLOOD Albumin-3.6 Calcium-8.1* Phos-4.1 Mg-2.3
___ 09:15AM BLOOD Calcium-PND Phos-PND Mg-PND
___ 03:28AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.1
___ 11:04AM BLOOD Triglyc-304* HDL-31 CHOL/HD-7.5 
LDLcalc-142*
___ 02:30AM BLOOD Phenyto-12.7
___ 01:21AM BLOOD Phenyto-0.9*

IMAGING:

___ CT head without contrast
1.  Left temporal bone fracture spares the otic capsule but 
extends 
posteriorly to involve the left occipital bone.   Underlying 
left occipital epidural hematoma containing several foci of air. 

2.  Bilateral subdural hematomas (left greater than right) and 
anterior 
parafalcine subdural hemorrhage. 
3.  Bilateral subarachnoid hemorrhage. 
4.  Left temporal and probable anterior inferior left frontal 
contusions. 
5.  3 mm right-sided shift of normally midline structures. 

___ CT chest, abdomen, pelvis with contrast
1.  Hemoperitoneum adjacent to the posterior and inferior edge 
of the liver with high-density stranding in the gallbladder 
fossa and the porta hepatis.  Although hypoattenuating linear 
streak artifact from the right arm limits evaluation, linear 
hypodensity in the periphery of segment IVb is suspicious for a 
laceration.  The study can be repeated with the right arm up if 
more detail is desired. 
2.  Two small subcentimeter hypodensities in the periphery of 
the inferior edge of the spleen with adjacent small amount of 
blood are suspicious for small lacerations. 
3.  Acute right anterolateral ___ through 7th rib fractures. 
4.  Mild compression deformities of T11 and T12 vertebral bodies 
are likely chronic. 

___ CT head without contrast
1.  Left occipital epidural hematoma underlying the calvarial 
fracture is 
stable in size.  Small, left greater than right subdural 
hematomas are stable in size. 
2.  Left greater than right subarachnoid hemorrhage has 
increased in extent.  
There is no associated increase in mass effect. 
3.  Complex, comminuted left temporal bone fracture, which 
extends into the tegmen tympani and middle ear cavity.  Middle 
and inner ear structures may be better assessed by dedicated 
temporal bone CT.  The fracture also extends into and widens the 
temporal/occipital and occipital/parietal sutures. 

___ Echocardiogram
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
a mild resting left ventricular outflow tract obstruction. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. 
Physiologic mitral regurgitation is seen (within normal limits). 
There is no pericardial effusion. 

IMPRESSION: Hyperdynamic left ventricular systolic function with 
mild resting outflow tract obstruction. No significant valvular 
disease.  

___ ECG
Marked sinus bradycardia competing with a junctional escape. No 
previous 
tracing available for comparison.  
  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
44 124 96 490/462 54 21 56 
 
___ KUB
Multiple distended loops of small bowel are present, 
particularly 
in the mid abdomen, with maximal transverse ___ of up to 
5.4 cm.  Air is also observed throughout non-distended loops of 
colon.  On the decubitus view, multiple air-fluid levels are 
seen in both large and small bowel.  Observed findings could 
potentially represent an ileus, but short-term followup 
radiographs are recommended to exclude early or partial 
small-bowel obstruction.  Tip of nasogastric tube terminates in 
the proximal stomach, but a side port could potentially be above 
the GE junction, and a dedicated chest x-ray may be helpful to 
better determine the location of the side port if warranted 
clinically. 

___ LUE films
SHOULDER:  There are no signs for acute fractures or 
dislocations.  There are degenerative changes of the AC and 
glenohumeral joints.  There are healed left fourth and fifth rib 
fractures. 
  
LEFT HUMERUS:  No acute fractures or dislocations are seen.  
Mineralization is normal. 
  
LEFT FOREARM:  There is a fracture plate in the distal radius 
shaft.  There are no signs for acute fractures.  There is a 
corticated density adjacent to the lateral aspect of the distal 
humeral epicondyle.  This may represent sequela of old trauma or 
a supracondylar spur.  A lucency is seen at the base of the 
spur.  There is no elbow joint effusion.  There is spurring 
about the olecranon at the triceps tendon attachment. 
  
LEFT WRIST:  There are no acute fractures or dislocations.  
There are severe degenerative changes of the first CMC, 
triscaphe, and radiocarpal joints. Distal radioulnar joint 
demonstrates spurring.  Peripheral IV catheter is identified.  
There is a well-corticated density at the radial aspect of the 
wrist joint. 
  
___ ___ Doppler Study
Left basilic vein thrombus.  The basilic vein is a superficial 
vein.

___ Renal U/S
Limited views of the bilateral kidneys demonstrate the right 
kidney measures 
12 cm, and the left kidney measures 12.3 cm.  There is no 
evidence of 
hydronephrosis or large renal mass bilaterally.  No perinephric 
fluid 
collections are present.  There is no evidence of renal stones 
bilaterally.  
Renal echogenicity and corticomedullary architecture is within 
normal limits.  
  
  
Due to the limited nature of this study secondary to patient 
motion, 
acceleration times and peak systolic velocities of the main 
renal arteries are not well evaluated, however there is 
demonstration of bilateral renal vascular flow with diastolic 
flow. Resistive indices on the right range from 0.47 to 0.56 and 
on the left range from 0.61 to 0.7.  The main renal arteries are 
patent bilaterally. The renal veins are patent bilaterally.   
Prior CT shows left renal artery stent. 
  
IMPRESSION: 
  
Motion limited study. Arterial flow to both kidneys, as above.  
  
___ CT head without contrast
1. Multiple new hypodense areas is scattered throughout the 
brain concerning for embolic infarcts, possibly subacute. 
Recommend MRI for further evaluation. 
2. Expected evolution of subarachnoid hemorrhage which is now 
less dense 
compared to the prior study. Stable left occipital epidural 
hematoma and 
parafalcine subdural hematoma. No new hemorrhage.  

___ MRI brain w/o contrast
1. Combination of right watershed and right MCA territory 
infarcts, the latter both cortical and basal ganglia in 
distribution.  Considered in conjunction with diminished flow in 
right ICA, findings are most consistent with severe proximal 
stenosis likely due to unstable atherosclerotic plaque. 
2. Stable extra-axial hemorrhage as described above. 
3. Left frontal and temporal lobe contusions. 
4. Mastoid air cell and middle ear cavity fluid, consistent with 
known 
temporal bone fracture. 

___ EEG
EEG is recorded from 19:20 on ___ through 7 AM on ___. 
CONTINUOUS EEG: Background is slow and disorganized, with no 
posterior 
dominant rhythm or anterior-posterior gradient of frequencies. 
Predominant background activity is moderate voltage polymorphic 
theta and delta activity. There is continuous focal slowing over 
the left hemisphere, higher voltage polymorphic delta activity, 
most prominent in the left parasagittal region. 
SLEEP: No normal sleep architecture is present. 
PUSHBUTTON ACTIVATIONS: There are no pushbutton activations. 
SPIKE DETECTION PROGRAMS: There are frequent automated spike 
detections, 
predominantly for electrode and movement artifact. There are no 
epileptiform discharges. 
SEIZURE DETECTION PROGRAMS: There is one automated seizure for 
electrode and movement artifact. There are no electrographic 
seizures. 
QUANTITATIVE EEG: Trend analysis is performed with Persyst Magic 
Marker 
software. Panels include automated seizure detection, rhythmic 
run detection and display, color spectral density array, 
absolute and relative asymmetry indices, asymmetry spectrogram, 
amplitude integrated EEG, burst suppression ratio, envelope 
trend, and alpha delta ratios. Segments showing abnormal trends 
are reviewed, and show diffuse delta activity, more prominent on 
the left. 
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate of 
60-70 bpm. 
IMPRESSION: This is an abnormal continuous ICU monitoring study 
because of moderate diffuse background slowing, much worse on 
the left. These findings are indicative of moderate diffuse 
cerebral dysfunction, as well as focal cerebral dysfunction in 
the left hemisphere, and are consistent with the multiple 
regions of brain injury from trauma and multiple infarcts. No 
epileptiform discharges or electrographic seizures are present. 

___ CXR
In comparison with study of ___, the patient has taken a much 
better inspiration.  Although the cardiac silhouette remains 
mildly enlarged and there is tortuosity of the aorta.  The 
pulmonary vascularity has substantially improved with only mild 
elevation of pulmonary venous pressure. 
The nasogastric tube is not well visualized.  No evidence of 
acute focal 
pneumonia. 

___ MRA neck w/ and w/o contrast
Marked irregularity and multifocal narrowing of the right 
internal carotid artery as well as the right vertebral artery 
likely related to dissection.  Possible dissection flap noted in 
the distal cervical ICA on the fat-saturated T1-weighted images. 
  
 
Brief Hospital Course:
___:  Urine output low, bolused IVF, CK elevated. Hct slowly 
downtrending  
  
___: intermittently agitated through day, ?related to bladder 
spasms - started oxybutinin. NGT placed with greenish/brown 
gastric contents. abdomen also somewhat distended, likely ileus, 
held off TF for today. SBP parameters liberalized to <160 per 
neurosurgery. A-line pulled out due to agitation, but BPs 
correlating well with cuff. Nicardipine switched to labetalol 
gtt for SBP 180/70 with HR 110. febrile to 102.1, pancultured. 
QTc prolonged to 410, pRN haldol switched to ativan.  
___: Pt persistently hypertensive,restarted labetalol gtt.  
Pt w/purulent sputum, culture sent. Pt febrile. CXR done. 
started vanc/zosyn, foley d/c.  
___: Slightly hypertensive, but controlled with hydralazine. 
20mg IV Lasix given for moderate pulmonary edema and generalized 
edema. In ___, continues to be hypertensive that is not 
controlled with PO/IV meds. Started IV Labetalol, and increased 
IV Hydralazine. Not controlled, so labetalol gtt was re-started. 
 
___: still intermittently agitated but improving. labetalol gtt 
off. vomited x 1 mostly tube feeds, KUB showed dilated loops of 
bowel. ACS aware. TF turned off, NGT to suction. Lasix 20mg x 2 
given with good diuresis -1L/day  
___: Antibiotics stopped. Had L upper extremity Xrays for 
decreased movement on right side-- no fractures. Upper extremity 
duplex U/S-->basilic vein thrombosis(superficial), No e/o DVT. 
Started amlodipine, ramipril. Weaned sedation. Lasix 20mg x1 
given with good diuresis -3.5L over 24 hrs. Arterial line 
placed. Labetolol gtt needed for BP control.  
___: Continued HTN. Cards was consulted and recommended 
chlorthalidone (no further cardiac workup recommended). PO 
labetalol was discontinued. ACS mentioned they would do a PEG on 
___. Had head CT done for AMS, showed possible subacute embolic 
infarcts (?MRI needed). SAH that is less dense comparted to 
prior stud. Stable L occipital epidural hematoma and parafalcine 
subdural hematoma. No new hemorrhage. Spoke with neurosurgery, 
who recommended a neurology consult for stroke workup. Ordered a 
MRI/MRA of head.  
___: , AC contraindicated. PEG placement deferred until 
tomorrow. chlorthalidone dose decreased 50->25mg as pt diuresed 
>3L. BPs elevated overnight, hydralazine PO increased to 30mg 
q6h  
___: Stopped Chlorthalidone. Lisinopril dose increased. MRA and 
lipid panel as per neurology recs. MRA suggestive of Rt ICA and 
vertebral artery dissection. Vascular team aware- no 
intervention recommended. EEG- no evidence of seizures, dilantin 
stopped. S/p PEG- remained intubated overnight with plan to 
extubate next am. Flexiseal placed for loose BM.  
 
___: Pt extubated, ) Unable to clear C-spine at this time. He 
will start TF via PEG on ___ per ACS.  
___: TF started via PEG. Transfer to floor today.  
ASSESSMENT:  
___ y/o M s/p fall, +LOC, GCS ___, intubated, found to have Left 
occipital epidural hematoma, Bilateral subdural and subarachnoid 
 
hemorrhages, left greater than right, rib fractures and liver 
laceration.  
Neurologic: 
Mr. ___ was admitted to ___ s/p fall from approximately 
20ft. His original CT scan showed a left temporal bone fracture, 
bilateral subdural and sub arachnoid hemorrhages (small) a left 
occipital epidural hematoma. His repeat head CT stable. Upon 
admission he was intubated and sedated, though he had a reported 
GCS of >8 in the field. On ___ the patient was extubated. 
Following extubation, he was increasingly agitated and started 
on PRN haldol for his agitation. On ___ the patient had a repeat 
head CT to evaluate for his diminishing mental status. 
Immediately following extubation he had been agitated though he 
would not open his eyes, he was moving all four extremities 
spastically, and he verbalized unintelligible speech. By ___ he 
would no longer verbalize at all, though he would open his eyes, 
he also rarely moved his extremities. The CT scan revealed 
possible subacute embolic infarcts. Neurology work-up including 
multiple imaging of cerebral vasculature revealed a large 
filling defect of R ICA extending to skull base He was started 
on ASA 325mg per neuro recs. Vascular surgery consulted re R ICA 
occlusion and advised that there no indication for CEA at this 
time. On ___ and ___ the patient appeared much more alert than 
previous exams. He would open his eyes spontaneously and was 
oriented to person and place (with some receptive language 
delay.

Cardiovascular:  
The patient was hypertensive throughout his hospital stay. He 
had a goal SBP<160 which was attained with a labetalol drip 
which was transitioned to PO labetalol once he was tolerating 
PO.

Pulmonary:  
He was intubated upon admission to ensure airway protection. He 
was weaned to CPAP and then successfully extubated before his 
transfer to the floor.

GI/FEN:  
He was made NPO upon arrival because of his inability to 
coordinate swallowing around the ET tube. Electrolytes were 
repleted as necessary, IV fluids were stopped once he was 
tolerating gtube feeds. a PEG was placed ___ and he started PEG 
tube feeds on ___. Which he tolerated.

MSK:  
He presented with right ___ rib fractures, he worked with ___ and 
OT to transition his care.

Endocrine:  
In the ICU he was maintained on an insulin sliding scale with a 
goal blood glucose between 150 and 100.

Mr. ___ was transferred to the inpatient ward on ___.  He 
was continued on tube feedings via his PEG tube, which he 
continued to tolerate well.  A speech and swallow evaluation was 
conducted on the day of discharge, ___.  Due to inability to 
follow commands, a true swallow evaluation could not be 
completed.  He had little to no swallow reflex to the one or two 
ice chips he did consume.  Mr. ___ was therefore kept NPO and 
his swallowing will have to be reassessed in the future while at 
rehab.  The patient continued on his anti-hypertensive regimen, 
where he continued to be hemodynamically stable with a SBP of < 
160mm Hg.  

At the time of discharge, Mr. ___ was afebrile, 
hemodynamically stable and in no acute distress.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
3. Sertraline 50 mg PO DAILY 
4. Amlodipine 10 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Bisacodyl ___AILY:PRN constipation 
7. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QFRI 
8. Docusate Sodium (Liquid) 100 mg PO BID 
9. Heparin 5000 UNIT SC TID 
10. HydrALAzine ___ mg IV Q6H:PRN SBP>180 
11. HydrALAzine 30 mg PO Q6H 
12. Lisinopril 10 mg PO DAILY 
13. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right internal carotid stenosis
Left temporal bone fracture  
Bilateral SDH/SAH  
Left occipital epidural  
Right ___ through 7th rib fractures  
Grade 1 liver laceration
Questionable grade 1 splenic laceration
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted to ___ on ___ after you fell approximately 
20 feet. On further evaluation, you were found to have the 
following injuries:

Right internal carotid stenosis
Left temporal bone fracture  
Bilateral ___  
Left occipital epidural  
Right ___ through 7th rib fractures  
Grade 1 liver laceration
Questionable grade 1 splenic laceration

You were placed on a ventilator and managed in the ICU 
initially.  As you began to recover, you were removed from the 
ventilator and transferred to the inpatient ward for further 
management.  You were also found to have a narrowing (or 
stenosis) of your right internal carotid artery.  You were seen 
by the Vascular surgery service and they recommended that you 
take aspirin daily and follow-up with them (appointment noted 
below).  You will also need to follow up with the Neurosurgery 
service (for your head injuries) and the ACS/Trauma service (for 
your rib fractures, splenic/liver lacerations).

You were seen by Physical and Occupational Therapy.  Based on 
their recommendations and your functional status, you are being 
discharged to a ___ facility.  
 
Followup Instructions:
___